US04069254
A 50.1 g amount of 1,6-diaminohexane was admixed with 20 ml of water and 13.2 g of ethyl acetate to form a solution. The solution was kept at room temperature for 2 days and then water and ethanol were removed by distillation. The residue was distilled under reduced pressure. When 30 g of 1,6-diaminohexane were distilled as a fraction having a boiling point of 82°- 84° C (12 mmHg), 14.9 g of 6-acetamidohexylamine were obtained as a fraction having a boiling point of 170°- 175° C (7 mmHg) (yield 65.8%).

reactant | 1,6-diaminohexane | NCCCCCCN | C6H16N2
reactant | water | 20 ml | O | H2O
reactant | ethyl acetate | 13.2 g | C(C)(=O)OCC | C4H8O2
product | 6-acetamidohexylamine | 14.9 g, yield 65.8% | C(C)(=O)NCCCCCCN | C8H18N2O
